US08859493B2
Step 3. 7-{3-[2-(2-{3-[3-(2,5-Dioxopyrrolidin-1-yloxycarbonyl)-propionylamino]-propoxy}-ethoxy)-ethoxy]-propylcarbamoyl}-heptanoic acid tert-butyl ester
7-[3-(2-{2-[3-(3-Carboxypropionylamino)-propoxy]-ethoxy}-ethoxy)-propylcarbamoyl]-heptanoic acid tert-butyl ester (0.78 g, 1.46 mmol) was activated by means of TSTU as described in example 8 step 4. Crude yield 360 mg, LCMS Method 6: Rt 4.40 min; m/z (M+1) 630; Calcd.: 630. The compound was used without further purification.

reactant | 7-[3-(2-{2-[3-(3-Carboxypropionylamino)-propoxy]-ethoxy}-ethoxy)-propylcarbamoyl]-heptanoic acid tert-butyl ester | 1.46 mmol, 0.78 g | C(C)(C)(C)OC(CCCCCCC(NCCCOCCOCCOCCCNC(CCC(=O)O)=O)=O)=O | C26H48N2O9
reactant | TSTU | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
product | 7-{3-[2-(2-{3-[3-(2,5-Dioxopyrrolidin-1-yloxycarbonyl)-propionylamino]-propoxy}-ethoxy)-ethoxy]-propylcarbamoyl}-heptanoic acid tert-butyl ester | C(C)(C)(C)OC(CCCCCCC(NCCCOCCOCCOCCCNC(CCC(=O)ON1C(CCC1=O)=O)=O)=O)=O | C30H51N3O11
